US04230621
(B) 21-[4-Carboxy-3-(4-hydroxyphenyl)-1-oxobutoxy]-11β,18-epoxy-18-hydroxypregn-4-ene-3,20-dione
A solution of 21-[3-(4-acetyloxyphenyl)-4-carboxy-1-oxobutoxy]-11β,18-epoxy-18-hydroxypregn-4-ene-3,20-dione (130 mg) in anhydrous methanol (15 ml) containing triethylamine (0.2 ml) is allowed to stand at room temperature for 24 hours. The methanol is then evaporated in vacuo, the residue is diluted with water (5.0 ml), acidified with 10% hydrochloric acid and extracted with ethyl acetate (three 5.0 ml portions). The ethyl acetate solution is washed with brine, dried over anhydrous magnesium sulfate, evaporated and the residue is subjected to preparative thin-layer chromatography on silica gel plates (using chloroform-methanol, 9:1 for development) to isolate 83 mg of the title compound, melting point 145°-152° C., with consistent spectral data.

reactant | 21-[3-(4-acetyloxyphenyl)-4-carboxy-1-oxobutoxy]-11β,18-epoxy-18-hydroxypregn-4-ene-3,20-dione | 130 mg | C(C)(=O)OC1=CC=C(C=C1)C(CC(OCC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3[C@@H]3C[C@]12C(O)O3)=O)=O)=O)CC(=O)O | C34H40O10
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 ml | CO | CH4O
product | 21-[4-Carboxy-3-(4-hydroxyphenyl)-1-oxobutoxy]-11β,18-epoxy-18-hydroxypregn-4-ene-3,20-dione | 83 mg | C(=O)(O)CC(CC(OCC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3[C@@H]3C[C@]12C(O)O3)=O)=O)=O)C3=CC=C(C=C3)O | C32H38O9
